US04371644
bis[2-hydroxy-3-(4-hydroxy-2,2,6,6-tetramethylpiperidino)propyl]adipate (Compound No. 122)
A mixture of 18.0 g of 4-hydroxy-2,2,6,6-tetramethylpiperidine and 11.3 g of bis(2,3-epoxypropyl) adipate was reacted and treated following substantially the same procedure as described in Example 45. The desired Compound No. 122 was obtained in the form of a pale yellow, very viscous product having an Rf value of 0.33 on thin-layer chromatography on silica gel developed with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 18.0 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | bis(2,3-epoxypropyl) adipate | 11.3 g | C(CCCCC(=O)OCC1CO1)(=O)OCC1CO1 | C12H18O6
product | bis[2-hydroxy-3-(4-hydroxy-2,2,6,6-tetramethylpiperidino)propyl]adipate | OC(COC(CCCCC(=O)OCC(CN1C(CC(CC1(C)C)O)(C)C)O)=O)CN1C(CC(CC1(C)C)O)(C)C | C30H56N2O8
